US06562827B1
a) 2-(4-Butoxycarbonylpiperazin-1-yl)nicotinic Acid N-(3-Phenylpropan-1-ol-2-yl)amide
13 g of 2-(4-butoxycarbonylpiperazin-1-yl)nicotinic acid were dissolved in 150 ml of methylene chloride and 14.7 ml of triethylamine analogously to Example 1c and treated successively with 6.4 g of phenylalaninol, 1.9 g of HOBT and 8.11 g of EDC, 16.7 g (90%) of the product being obtained.

reactant | 2-(4-butoxycarbonylpiperazin-1-yl)nicotinic acid | 13 g | C(CCC)OC(=O)N1CCN(CC1)C1=C(C(=O)O)C=CC=N1 | C15H21N3O4
reactant | triethylamine | 14.7 ml | C(C)N(CC)CC | C6H15N
reactant | phenylalaninol | 6.4 g | N[C@@H](CC1=CC=CC=C1)CO | C9H13NO
reactant | HOBT | 1.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | EDC | 8.11 g
product | 2-(4-Butoxycarbonylpiperazin-1-yl)nicotinic Acid N-(3-Phenylpropan-1-ol-2-yl)amide | C1(=CC=CC=C1)CC(CO)NC(C1=C(N=CC=C1)N1CCN(CC1)C(=O)OCCCC)=O | C24H32N4O4
